US07829560B2
N-[4-({2-[(2R,6S)-2,6-Dimethylmorpholin-4-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B364).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2,6-dimethylmorpholine according to conditions described in general procedure C. Mp: 118-120° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.01-1.02 (m, 6 H), 2.39 (t, J=11.7 Hz, 2 H), 3.25-3.30 (m, 4 H), 3.75-3.77 (m, 4H), 4.20 (bs, 2 H), 6.18-6.20 (m, 1 H), 7.02-7.06 (m, 1 H), 7.25-7.27 (m, 1 H), 7.42-7.44 (m, 1 H), 7.49 (s, 1 H), 7.57-7.62 (m, 3 H), 7.82-7.84 (m, 1 H), 8.00 (d, J=8.0 Hz, 1 H), 8.26-8.28 (m, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2,6-dimethylmorpholine | CC1CNCC(O1)C | C6H13NO
product | N-[4-({2-[(2R,6S)-2,6-Dimethylmorpholin-4-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | C[C@@H]1CN(C[C@@H](O1)C)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C31H32FN5O4
